US05137918
4-Acetamino-N-(2'-aminophenyl)-benzamide
The N-(2'-nitrophenyl)-4-acetylaminobenzamide used as starting material is prepared as follows: 41.3 g (0.33 mole) oxalyl chloride are added dropwise at 0°-5° C., with the exclusion of moisture, to a solution of 60.3 g (0.83 mole) dimethylformamide in 1.5 L dry ethyl acetate. After stirring for 30 minutes at this temperature, 44.8 g (0.25 mole) 4-acetamidobenzoic acid, together with 27.7 g (0.35 mole) pyridine, are added thereto and the ice bath is removed. After stirring for 3 hours at ambient temperature, the reaction mixture is mixed with a solution of 38 g (0.28 mole) o-nitroaniline and 27.7 g (0.35 mole) pyridine in 30 mL dry ethyl acetate. After stirring for 15 hours at ambient temperature, the reaction mixture is mixed with 500 mL 1N aqueous sodium hydroxide solution, the phases are separated and the aqueous phase is shaken out three times with 150 mL amounts of ethyl acetate. The combined organic phases are washed neutral with water, dried over anhydrous sodium sulfate, and concentrated to about one-third. The precipitate obtained is filtered off with suction and purified either by recrystallization or by column chromatography. Yield 15 g (20% of theory); m.p. 205.8° C.

reactant | N-(2'-nitrophenyl)-4-acetylaminobenzamide | [N+](=O)([O-])C1=C(C=CC=C1)NC(C1=CC=C(C=C1)NC(C)=O)=O | C15H13N3O4
reactant | oxalyl chloride | 0.33 mole, 41.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.83 mole, 60.3 g | CN(C=O)C | C3H7NO
reactant | 4-acetamidobenzoic acid | 0.25 mole, 44.8 g | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | pyridine | 0.35 mole, 27.7 g | N1=CC=CC=C1 | C5H5N
reactant | o-nitroaniline | 0.28 mole, 38 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | pyridine | 0.35 mole, 27.7 g | N1=CC=CC=C1 | C5H5N
reactant | sodium hydroxide | 1N, 500 mL | [OH-].[Na+]
solvent | ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 4-Acetamino-N-(2'-aminophenyl)-benzamide | N(C(=O)C)C1=CC=C(C(=O)NC2=C(C=CC=C2)N)C=C1 | C15H15N3O2
